US07951801B2
4-[2-(4-Hydroxy-piperdin-1-yl)-2-oxo-ethyl]-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide
The desired compound was synthesized using [5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid and 4-hydroxypiperazine following Method F in 31% yield. 1H-NMR (300 MHz, D2O): δ 8.85 (1H,s), 8.19 (2H, s), 7.82 (1H, s), 7.44 (1H, s), 4.15 (2H, m), 3.9-3.75 (4H, m), 3.6 (2H, m), 3.56 (2H, m), 3.12 (1H, m), 2.9 (3H, m), 2.8 (1H, m), 1.7 (2H, m) 1.34 (3H, s), 1.19 (3H, s). Retention time (LC, method: ammonium acetate standard): 1.5 min

reactant | [5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1COC(CN1CC(=O)O)(C)C | C20H21ClN4O4
reactant | 4-hydroxypiperazine | ON1CCNCC1 | C4H10N2O
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | 4-[2-(4-Hydroxy-piperdin-1-yl)-2-oxo-ethyl]-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide | 31% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)CC(=O)N1CCC(CC1)O | C25H30ClN5O4
